US03953604
A solution of 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-p-ethylphenoxypropane (25.6 g) in diethyl oxalate (30 ml) was added to a suspension of sodium ethoxide, prepared from sodium (6.0 g) and ethanol (60 ml), in dry ether (400 ml). The mixture was heated under reflux for 1.5 hours and the greenish-brown residue was poured onto ice (200 g) and acidified with a solution of acetic acid (24 ml) in water (160 ml). The ether layer was separated after the addition of a further quantity of water (200 ml), and the aqueous layer was extracted with ether (3 × 50 ml), adding the extracts to the organic layer. The solvent was then removed and the residue dissolved in absolute ethanol (200 ml) to which hydrochloric acid (10 drops) was added. The solution was heated under reflux for 1 hour and the solvent was then removed to give a brownish oil from which crystals separated on standing overnight. These were filtered off, and washed with the minimum volume of ether to afford 1-(2-carbethoxy-chromon-5-yloxy)-2-hydroxy-3-p-ethylphenoxypropane (15.7 g) as a white solid, m.p. 80°-85°. A portion was recrystallized from aqueous ethanol to give white flakes, m.p. 84°-86°.

reactant | 1-(2-acetyl-3-hydroxyphenoxy)-2-hydroxy-3-p-ethylphenoxypropane | 25.6 g | C(C)(=O)C1=C(OCC(COC2=CC=C(C=C2)CC)O)C=CC=C1O | C19H22O5
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 6.0 g | [Na] | Na
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | diethyl oxalate | 30 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | water | 160 ml | O | H2O
solvent | acetic acid | 24 ml | C(C)(=O)O | C2H4O2
product | 1-(2-carbethoxy-chromon-5-yloxy)-2-hydroxy-3-p-ethylphenoxypropane | 15.7 g | C(=O)(OCC)C=1OC2=CC=CC(=C2C(C1)=O)OCC(COC1=CC=C(C=C1)CC)O | C23H24O7
